US05342546
A solution of 7.7 g of 4-trifluoromethoxybromobenzene in 30 ml of anhydrous diethyl ether was added dropwise under stirring at 10°-15° C. to 0.66 g of magnesium metal powder, followed by reaction at room temperature for 1 hour so that a Grignard reagent was formed. After 5 g of trans-4-pentylcyclohexylcyclohexenone were added under stirring at -10° to 0° C. to the thus-formed Grignard reagent, they were reacted at room temperature for additional 1 hour. After the completion of the reaction, diluted hydrochloric acid was added dropwise to the reaction mixture, followed by the extraction of the reaction mixture with diethyl ether. After the extract was washed with saturated NaCl, anhydrous sodium sulfate was added to dry the extract. The diethyl ether was distilled off under reduced pressure, whereby 1-(trans-4-pentylcyclohexyl)-4-(4-trifluoromethoxyphenyl)-4-hydroxycyclohexene was obtained as a crude reaction product.

reactant | 4-trifluoromethoxybromobenzene | 7.7 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.66 g | [Mg] | Mg
reactant | trans-4-pentylcyclohexylcyclohexenone | 5 g | C(CCCC)[C@@H]1CC[C@H](CC1)C=1C(CCCC1)=O | C17H28O
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-(trans-4-pentylcyclohexyl)-4-(4-trifluoromethoxyphenyl)-4-hydroxycyclohexene | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CCC(CC1)(O)C1=CC=C(C=C1)OC(F)(F)F | C24H33F3O2
